US06900353B2
Preparation of Cyclohex-1-enylbenzene
1-phenylcyclohexan-1-ol (24.9 mmol), p-toluenesulfonic acid (500 mg) and toluene (200 mL) are mixed together in a 500 mL 3 neck flask fitted with a thermometer and Dean Stark trap and stirred at reflux for 4 hours under a nitrogen atmosphere. The reaction is then allowed to cool to room temperature and concentrated under reduced vacuum. The crude material is then taken into methylene chloride, washed once with water, dried over potassium carbonate, filtered, and concentrated under reduced vacuum. This material can then be purified via silica gel chromatography employing the Water's Prep 2000 and eluting with a solvent of hexane/methylene chloride 9:1 to yield the intermediate title compound.

reactant | 1-phenylcyclohexan-1-ol | 24.9 mmol | C1(=CC=CC=C1)C1(CCCCC1)O | C12H16O
reactant | p-toluenesulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclohex-1-enylbenzene | C1(=CCCCC1)C1=CC=CC=C1 | C12H14
